US08648081B2
Stir a mixture of 1-oxo-1-(2-(pyrrolidin-1-yl)cyclopent-1-enyl)propan-2-yl acetate (952.0 g), acetic acid (1500 mL) and water (1500 mL) in tetrahydrofuran (3000 mL) at room temperature for 2 days. Dilute the mixture with water (1200 mL) and dichloromethane (1200 mL). The organic layer is washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (eluting with 3% to 10% ethyl acetate in petroleum ether) to give 1-oxo-1-(2-oxocyclopentyl)propan-2-yl acetate as oil (573.4 g, 2.89 mol, 72.6% for 2 steps).

reactant | 1-oxo-1-(2-(pyrrolidin-1-yl)cyclopent-1-enyl)propan-2-yl acetate | 952.0 g | C(C)(=O)OC(C(C1=C(CCC1)N1CCCC1)=O)C | C14H21NO3
reactant | acetic acid | 1500 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 3000 mL | O1CCCC1 | C4H8O
solvent | water | 1200 mL | O | H2O
solvent | dichloromethane | 1200 mL | ClCCl | CH2Cl2
solvent | water | 1500 mL | O | H2O
product | 1-oxo-1-(2-oxocyclopentyl)propan-2-yl acetate | C(C)(=O)OC(C(C1C(CCC1)=O)=O)C | C10H14O4
